US08114868B2
Trifluoro-methanesulfonic Acid 1-cyclopropyl-2-oxo-1,2-dihydro-pyridin-4-yl Ester
Trifluoromethanesulfonic anhydride (0.12 mL) was added to a flask charged with a stir bar, 1-cyclopropyl-4-hydroxy-1H-pyridin-2-one (0.10 g), NEt3 (0.24 mL), and dichloromethane (8 mL) and chilled in an ice/EtOH bath. The resulting mixture was stirred with cooling for 2 h and at ambient temperature for another 2 h. Then, the solution was diluted with dichloromethane and washed in succession with water, aqueous NaHCO3 solution, and water. The organic solution was dried (MgSO4), the solvent was removed, and the residue was purified by chromatography on silica gel (dichloromethane/methanol 99:1->90:10) to afford the title compound as a resin-like solid. Yield: 0.07 g (36% of theory). Mass spectrum (ESI+): m/z=284 [M+H]+.

reactant | Trifluoromethanesulfonic anhydride | 0.12 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-cyclopropyl-4-hydroxy-1H-pyridin-2-one | 0.10 g | C1(CC1)N1C(C=C(C=C1)O)=O | C8H9NO2
reactant | NEt3 | 0.24 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic Acid 1-cyclopropyl-2-oxo-1,2-dihydro-pyridin-4-yl Ester | C1(CC1)N1C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C9H8F3NO4S
